US08022062B2
7-Chloro-6-(6-methyl-pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 387, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-chloromethyl-6-methylpyridine to give, after chromatography on silica gel eluting with hexane/EtOAc (4:1) and deprotection by the General Procedure 1-4, the title compound as a white solid. MS (ES+) m/z: 319 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-chloromethyl-6-methylpyridine | ClCC1=NC(=CC=C1)C | C7H8ClN
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 7-Chloro-6-(6-methyl-pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC(=CC=C1)C | InChI=1S/C17H19ClN2S.ClH/c1-12-3-2-4-14(20-12)11-21-17-15-8-10-19-9-7-13(15)5-6-16(17)18;/h2-6,19H,7-11H2,1H3;1H
